US05376684
Under nitrogen, 8.7 g of sodium hydride (99%) dissolved in 600 ml of tetrahydrofuran are cooled to 15° and 75 g of 1,1-diethoxyethylphosphinic acid ethyl ester in 100 ml of tetrahydrofuran are added thereto in the course of 1 hour, the reaction temperature being maintained at less than 25°. The resulting suspension is stirred at room temperature for 2 hours and then a solution of 57.2 g of bromomethylcyclohex-3-ene in 100 ml of anhydrous tetrahydrofuran is added thereto in the course of 30 minutes. The mixture is heated at reflux for 24 hours, then cooled to 0°; 10 ml of water are added and the solvent is removed. The residue is dissolved in dichloromethane, washed twice with water, dried over sodium sulfate, concentrated to dryness by evaporation and distilled. The resulting 1,1-diethoxyethyl-(cyclohex-3-ene)-phosphinic acid ethyl ester is dissolved in 300 ml of dichloromethane that contains 10% by volume ethanol and left to stand at room temperature for 24 hours. Removal of the solvent and distillation yield cyclohex-3-enylmethylphosphinic acid ethyl ester; 31P-NMR (CDCl3):δ=37.1 (s).

reactant | sodium hydride | 8.7 g | [H-].[Na+]
reactant | 1,1-diethoxyethylphosphinic acid ethyl ester | 75 g | C(C)OP(=O)C(C)(OCC)OCC | C8H19O4P
reactant | bromomethylcyclohex-3-ene | 57.2 g | BrCC1CC=CCC1 | C7H11Br
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | cyclohex-3-enylmethylphosphinic acid ethyl ester | C(C)OP(=O)CC1CC=CCC1 | C9H17O2P
